US08426611B2
To (1R,2S)-2-((R)-2′-cyclopentyl-2′-hydroxy 2′-phenylacetoxy)-7-(tert-butoxycarbonyl)-7-azabicyclo[2.2.1]heptane (76 mg, 0.182 mmol) was added 1 mL of 4N hydrochloric acid in dioxane and the mixture was stirred at room temperature for 0.5 hr. The dioxane was removed under vacuum and the residue was basified with ammonium hydroxide to pH 10 and extracted with 3×30 mL of methylene chloride. The combined organic layers were dried over sodium sulfate and concentrated to yield the crude amine. To this amine, dissolved in 5 mL of dichloroethane, was added 0.1 mL of formaldehyde solution (37% w/v in water) followed by sodium triacetoxyborohydride (76 mg, 0.364 mmol) and the mixture stirred at room temperature overnight. Water was added and the mixture was extracted with 3×50 mL of methylene chloride. The combined organic layers were dried over sodium sulfate and concentrated to yield the crude tertiary amine which was further purified on silica gel using methylene chloride/methanol/ammonia (90:9:1) as the eluent to yield 46 mg of (1R,2S)-2-((R)-2′-cyclopentyl-2′-hydroxy 2′-phenylacetoxy)-7-methyl-7-azabicyclo[2,2,1]heptane as an oil.

reactant | (1R,2S)-2-((R)-2′-cyclopentyl-2′-hydroxy 2′-phenylacetoxy)-7-(tert-butoxycarbonyl)-7-azabicyclo[2.2.1]heptane | 0.182 mmol, 76 mg | C1(CCCC1)[C@](C(=O)O[C@@H]1[C@H]2CCC(C1)N2C(=O)OC(C)(C)C)(C2=CC=CC=C2)O | C24H33NO5
reactant | hydrochloric acid | 4N, 1 mL | Cl | ClH
reactant | formaldehyde | 0.1 mL | C=O | CH2O
reactant | sodium triacetoxyborohydride | 0.364 mmol, 76 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | dichloroethane | 5 mL | ClC(C)Cl | C2H4Cl2
solvent | Water | O | H2O
product | (1R,2S)-2-((R)-2′-cyclopentyl-2′-hydroxy 2′-phenylacetoxy)-7-methyl-7-azabicyclo[2,2,1]heptane | 46 mg | C1(CCCC1)[C@](C(=O)O[C@@H]1[C@H]2CCC(C1)N2C)(C2=CC=CC=C2)O | C20H27NO3
